US04914112
To N-methylthiourea (5.55 g, 61.6 mmol) in water was heated with 1-chloro-3-(2-fluoro-4-biphenylyl)-2-butanone (16.50 g, 59.6 mmol) at 90° C. for 3 hr. Treatment in same manner of Example 1 to give 4-[1-(2-fluoro-4-biphenylyl)ethyl]-2-methylaminothiazole (13.15 g, 71% yield): mp 129°-129.5° C.

reactant | N-methylthiourea | 61.6 mmol, 5.55 g | CNC(=S)N | C2H6N2S
reactant | 1-chloro-3-(2-fluoro-4-biphenylyl)-2-butanone | 59.6 mmol, 16.50 g | ClCC(C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F)=O | C16H14ClFO
solvent | water | O | H2O
product | 4-[1-(2-fluoro-4-biphenylyl)ethyl]-2-methylaminothiazole | 13.15 g, 71% yield | FC1=C(C=CC(=C1)C(C)C=1N=C(SC1)NC)C1=CC=CC=C1 | C18H17FN2S
